US06787543B2
A mixture of (2S)-2-(4-methylphenylsulfonyloxymethyl)pyrrolidine-1-carboxylic acid benzyl ester (26.2 g), 2-methoxybenzylamine (44 ml) and N,N-diisopropylethylamine (17.6 ml) in 1,3-dimethyl-2-imidazolidinone (393 ml) was stirred at 93° C. for 7 hours. The mixture was poured into ice-water and extracted with ethyl acetate. The extract was washed with brine, dried over magnesium sulfate and evaporated under reduced pressure. The residue was purified by column chromatography on silica gel using a mixed solvent of dichloromethane and methanol (20:1). The fractions containing the objective compound were collected and evaporated under reduced pressure to give a syrup of (2S)-2-[(2-methoxybenzylamino)methyl]pyrrolidine-1-carboxylic acid benzyl ester (15.7 g).

reactant | (2S)-2-(4-methylphenylsulfonyloxymethyl)pyrrolidine-1-carboxylic acid benzyl ester | 26.2 g | C(C1=CC=CC=C1)OC(=O)N1[C@@H](CCC1)COS(=O)(=O)C1=CC=C(C=C1)C | C20H23NO5S
reactant | 2-methoxybenzylamine | 44 ml | COC1=C(CN)C=CC=C1 | C8H11NO
reactant | N,N-diisopropylethylamine | 17.6 ml | C(C)(C)N(C(C)C)CC | C8H19N
solvent | 1,3-dimethyl-2-imidazolidinone | 393 ml | CN1C(N(CC1)C)=O | C5H10N2O
product | (2S)-2-[(2-methoxybenzylamino)methyl]pyrrolidine-1-carboxylic acid benzyl ester | 15.7 g | C(C1=CC=CC=C1)OC(=O)N1[C@@H](CCC1)CNCC1=C(C=CC=C1)OC | C21H26N2O3
